US05696118
Example 99: Preparation of 2-valeramidoisonicotinic acid morpholide ([9]-(94)-467")
The compound ([9]-(94)-467') (2.4610 g) prepared in Example 98 was dissolved in anhydrous dimethylformamide (DMF) (37 ml). Then, 1-hydroxybenzotriazole (1.9477 N,N'-dicyclohexylcarbodiimide (2.9739 g), and morpholine (1.3 ml) were added to the solution. The mixture was stirred at room temperature for 16 hours. The insolubles were filtered out, and the filtrate was concentrated. The resulting residue was dissolved in chloroform, washed with water and saturated brine, dried over anhydrous sodium sulfate, and concentrated to obtain yellowish brown oil (7.4981 g). The crude oil was purified by silica gel column chromatography (Kieselgel 60=230 g, chloroform/acetone=5/1) to obtain the above-captioned compound ([9]-(94)-467") (3.1756 g) as white crystals.

reactant | 1-hydroxybenzotriazole | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N,N'-dicyclohexylcarbodiimide | 2.9739 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | morpholine | 1.3 ml | N1CCOCC1 | C4H9NO
reactant | dimethylformamide | 37 ml | CN(C=O)C | C3H7NO
product | 2-valeramidoisonicotinic acid morpholide | 7.4981 g | C(CCCC)(=O)NC=1C=C(C(=O)N2CCOCC2)C=CN1 | C15H21N3O3
